US07851072B2
To a 2 L flask, 45.0 g (262 mmol) of 6-bromo-3-methylpyridine, 38.3 g (314 mmol) of phenylboronic acid, 1.47 g (6.54 mmol) of palladium acetate, 6.86 g (26.2 mmol) of triphenylphosphine and 353 mL of 2M K2CO3 were added to 405 mL of dimethoxyethane. The mixture was heated at reflux for 20 hours and cooled to room temperature. The aqueous phase was extracted twice with 200 mL of ethyl acetate. The combined organic extractions were then extracted with brine and dried over magnesium sulfate. The filtrate was evaporated in vacuo and the resultant oil purified by Kugelehor distillation (190° C. @ 500 microns) to give 37.2 g (84.1% yield) of 3-methyl-6-phenylpyridine as white solids.

reactant | 6-bromo-3-methylpyridine | 262 mmol, 45.0 g | BrC1=CC=C(C=N1)C | C6H6BrN
reactant | phenylboronic acid | 314 mmol, 38.3 g | C1(=CC=CC=C1)B(O)O | C6H7BO2
reactant | triphenylphosphine | 26.2 mmol, 6.86 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | K2CO3 | 2M, 353 mL | C(=O)([O-])[O-].[K+].[K+]
catalyst | palladium acetate | 6.54 mmol, 1.47 g | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
solvent | dimethoxyethane | 405 mL | C(OC)COC | C4H10O2
product | 3-methyl-6-phenylpyridine | 37.2 g, 84.1% yield | CC=1C=NC(=CC1)C1=CC=CC=C1 | C12H11N
